US05306820
(+)-Menthyl 4-hydroxyphenylacetate
2.9 kg of p-hydroxyphenylacetic acid and 1.95 kg of (+)-menthol are heated to boiling for 16 hours with 40 g of p-toluenesulphonic acid in 25 l of toluene; about 300 ml of water are separated in this process. The toluene solution is washed with 10 l of saturated NaHCO3 solution and 10 l of water and concentrated to dryness in vacuo. The title compound is obtained as 5.4 kg of oily residue (98-100% of theory) having a purity of 91.8% (HPLC surface area percentage). For analytical purposes, the (+)-menthylhydroxyphenylacetate was recrystallised twice from n-hexane.

reactant | p-hydroxyphenylacetic acid | 2.9 kg | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | (+)-menthol | 1.95 kg | CC1CC[C@@H]([C@H](C1)O)C(C)C | C10H20O
reactant | p-toluenesulphonic acid | 40 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 25 l | C1(=CC=CC=C1)C | C7H8
product | (+)-Menthyl 4-hydroxyphenylacetate | OC1=CC=C(C=C1)CC(=O)OC1CC(CCC1C(C)C)C | C18H26O3
